US07148173B2
A solution of 11.5 g (61 mmol) of biscyclopentadienyidimethylsilane in THF was added to a suspension of 1.3 g (55 mmol) of HK in THF at −78° C. A purple solution was immediately formed. Then, the volatiles were removed and the residue was washed with hexane to give a pink solid. The solid was solved again in THF and a solution of 10.8 g (55 mmol) of 2-bromo-1-trimethylsiloxyethane in THF was added at room temperature. A pink suspension was immediately formed. The mixture was stirred for 12 h, and then the solvents were removed, the residue was treated with hexane and the supernatant solution was filtered. The removal of the hexane led to a reddish oil. This oil was distilled in order to obtain a yellow oil, which was characterized as a mixture of position isomers of (2-trimethylsiloxyethylcyclopentadienyl) dimethyl cyclopentadienyl silane (Tb: 135–140° C.; 1 mm Hg), (8.7 g, 28.6 mmol, yield: 52%). 1H-RMN(CDCl3): 6.82–6.40 (m, 7H); 3.82 (m, 2H); 3.10 (m, 2H); 2.73 (m, 2H); 0.20 (s, 15 H).

reactant | biscyclopentadienyidimethylsilane | 61 mmol, 11.5 g | C1(C=CC=C1)[Si](C)(C)C1C=CC=C1 | C12H16Si
reactant | 2-bromo-1-trimethylsiloxyethane | 55 mmol, 10.8 g | BrCCO[Si](C)(C)C | C5H13BrOSi
solvent | THF | C1CCOC1 | C4H8O
product | (2-trimethylsiloxyethylcyclopentadienyl) dimethyl cyclopentadienyl silane | 28.6 mmol, 8.7 g, yield: 52% | C[Si](OCCC1(C=CC=C1)[Si](C1C=CC=C1)(C)C)(C)C | C17H28OSi2
